* C:\Users\lekenot\Desktop\Teboho-Lekeno-EE-Stuff\Design\simulations\Lt spice simulation\inverter.asc
V1 sawtooth 0 PULSE(-2 2 0 0.000025 0.000025 0 0.0000500005)
V3 0 -vcc 12
V4 vcc 0 12
E1 drive1 0 A_ 0 35
E2 drive2 0 B_ 0 35
V6 sine_g 0 SINE(0 2 50 0 0 180)
XU1 0 N001 vcc -vcc sine_ LM741/NS
R3 sine_ N001 100
R4 N001 sine 100
XU2 sawtooth sine vcc 0 A_ LM741/NS
XU3 sine sawtooth vcc 0 A LM741/NS
M5 N002 drive2 ad ad R6020PNJ
M6 ad B 0 0 R6020PNJ
M7 N002 drive1 out1 out1 R6020PNJ
M8 out1 A 0 0 R6020PNJ
V5 N002 0 400
XU4 sawtooth sine_ vcc 0 B_ LM741/NS
XU5 sine_ sawtooth vcc 0 B LM741/NS
E3 stepdown 0 ad au 4.5016m
L1 out1 au 28.64m Ipk=4
C1 au ad 884.2n
R1 au ad 600
XU6 N006 N003 vcc -vcc error LM741/NS
R2 error N003 200
R5 N003 stepdown 100
R6 N006 sine_g 100
R7 N006 0 200
XU7 0 N004 vcc -vcc N005 LM741/NS
R8 N005 N004 100
R9 N004 error 100
XU8 0 N007 vcc -vcc N008 LM741/NS
R10 N008 N007 100
R11 N007 error 100
C2 N007 N008 100µ
R14 summer N005 100
R15 summer N008 100
XU10 0 summer vcc -vcc sine LM741/NS
R17 sine summer 100
XU9 0 N009 vcc -vcc N010 LM741/NS
R12 N010 N009 100k
R13 P001 error 100k
R16 summer N010 100
C3 N010 N009 100µ
C4 N009 P001 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lekenot\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 5 0 0.002
.include C:\Users\lekenot\Desktop\LM741.MOD
.backanno
.end
